US04742052
To a solution of sodium β-chloropivalate, prepared from β-chloropivalic acid (13.66 g) and 50% sodium hydride (4.80 g) in dimethylformamide (110 ml) was added dropwise trimethyl chlorosilane (10.85 g) in dimethylformamide (10 ml) at -5° C. to -3° C. After stirring for 1 hour sodium thiobenzoate, prepared from thiobenzoic acid (13.8 g) and 50% sodium hydride (4.80 g) in dimethylformamide (70 ml), was added dropwise thereto at -5° C. to -8° C. After addition of sodium iodide (15.0 g), the mixture was stirred at room temperature for 3 days and then at 40° C. for 7 days. The reaction mixture was diluted with ice-water and extracted with ethyl acetate. The ethyl acetate extract was washed with water, dried over anhydrous sodium sulfate and evaporated in vacuo. The residue was recrystallized from diisopropyl ether-petroleum ether to give β-benzoylthiopivalic acid.

reactant | sodium β-chloropivalate | ClCC(C(=O)[O-])(C)C.[Na+]
reactant | β-chloropivalic acid | 13.66 g | ClCC(C(=O)O)(C)C | C5H9ClO2
reactant | sodium hydride | 4.80 g | [H-].[Na+]
reactant | trimethyl chlorosilane | 10.85 g | C[Si](Cl)(C)C | C3H9ClSi
reactant | sodium thiobenzoate | C(C1=CC=CC=C1)(=S)[O-].[Na+]
reactant | thiobenzoic acid | 13.8 g | C(C1=CC=CC=C1)(=S)O | C7H6OS
reactant | sodium hydride | 4.80 g | [H-].[Na+]
reactant | sodium iodide | 15.0 g | [I-].[Na+]
solvent | dimethylformamide | 110 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | β-benzoylthiopivalic acid | C(C1=CC=CC=C1)(=O)CC(C(=S)O)(C)C | C12H14O2S
